US07691877B2
1-Benzyl-4-benzylamino-6-trifluoromethyl-1,3-dihydro-imidazo[4,5-c]pyridine-2-one
N2,N4-Dibenzyl-6-trifluoromethyl-pyridine-2,3,4-triamine (9.02 g, 24.2 mmol) was dissolved in TBME (180 ml) and CDl (19.6 g, 121 mmol) was added. The reaction mixture was stirred at room temperature for 72 h. Water (100 ml) was added to the reaction mixture and the layers were separated. The aqueous was extracted with EtOAc (200 ml). The combined organics were washed with brine (50 ml), dried over MgSO4 and concentrated in vacuo to give the crude (25 g). Column chromatography through silica eluting with 30:70→60:40 Heptane:EtOAc gave the title compound (2.64 g) as a white fluffy solid.

reactant | N2,N4-Dibenzyl-6-trifluoromethyl-pyridine-2,3,4-triamine | 24.2 mmol, 9.02 g | C(C1=CC=CC=C1)NC1=NC(=CC(=C1N)NCC1=CC=CC=C1)C(F)(F)F | C20H19F3N4
reactant | Water | 100 ml | O | H2O
reactant | Heptane | CCCCCCC | C7H16
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | TBME | 180 ml | CC(C)(C)OC | C5H12O
product | 1-Benzyl-4-benzylamino-6-trifluoromethyl-1,3-dihydro-imidazo[4,5-c]pyridine-2-one | 2.64 g | C(C1=CC=CC=C1)N1C(NC=2C(=NC(=CC21)C(F)(F)F)NCC2=CC=CC=C2)=O | C21H17F3N4O
